US07022718B2
3-Aminomethyl-4-(2,4-dichloro-phenyl)-6-phenyl-pyridin-2-ylamine
Under an atmosphere of argon, a solution of 2-amino-4-(2,4-dichloro-phenyl)-6-phenyl-nicotinonitrile (580 mg, 1.71 mmol) in THF (2 ml) is added slowly to a suspension of LiAlH4 (324 mg, 8.52 mmol) in THF (2 ml). After stirring for 2 h at room temperature, the reaction mixture is cooled to −20° C. and water (0.4 ml) is added. After 15 min, ethyl acetate is added and the mixture is filtered through Decalite. The organic phase is then separated, washed with water, and dried over sodium sulfate. Purification by flash chromatography (silica gel, methanol, dichloromethane) affords the title compound, MS: m/e=343.8 (M+H+), as a light yellow solid (36 mg, 6%).

reactant | 2-amino-4-(2,4-dichloro-phenyl)-6-phenyl-nicotinonitrile | 1.71 mmol, 580 mg | NC1=C(C#N)C(=CC(=N1)C1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C18H11Cl2N3
reactant | LiAlH4 | 8.52 mmol, 324 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.4 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-Aminomethyl-4-(2,4-dichloro-phenyl)-6-phenyl-pyridin-2-ylamine | NCC=1C(=NC(=CC1C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1)N | C18H15Cl2N3
